US07132539B2
Preparation of 2-{1-(4-fluorobenzyl)-2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (67):
2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-methoxymethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide HCl, 66, (0.36 g, 0.55 mmol) and BOC-L-Proline (0.13 g, 0.6 mmol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.2 g, 1.1 mmol) and 1-hydroxybenzotriazole (0.1 g, 0.7 mmol) are dissolved in anhydrous DMF (1.5 mL). The reaction mixture is cooled to 0° C., then N-methylmorpholine (0.5 mL, 4.1 mmol) is added. The reaction mixture is placed in a refrigerator overnight. EtOAc (25 mL) and water (75 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×30 mL). All organic layers are combined and washed with water (2×50 mL), and dried over Na2SO4. The solvent is removed in vacuo to afford 0.39 g of the desired product.

reactant | 2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-methoxymethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide HCl | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)COC)CC1=CC=C(C=C1)F
reactant | BOC-L-Proline | 0.6 mmol, 0.13 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-hydroxybenzotriazole | 0.7 mmol, 0.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 4.1 mmol, 0.5 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-{1-(4-fluorobenzyl)-2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.39 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)COC)CC1=CC=C(C=C1)F)=O | C39H50FN5O6
